US06635633B2
B. 4-(6-Chloro-1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 6-chloro-3-piperidin-4-yl-1H-indole (4.6 g, 19.5 mmol) in DMF (20 mL) was added di-tert-butyl dicarbonate (4.6 g, 21.4 mmol). The reaction mixture was stirred at room temperature for 6 h. The reaction mixture was dissolved in EtOAc (400 mL), washed with water (3×50 mL), brine (1×50 mL). The organic layer was dried over Na2SO4 and concentrated. Column chromatography (silica, 20-50% EtOAc/hexanes) gave 4.2 g (64%) of the desired product. TLC (silica, 20% EtOAc/hexanes): Rf=0.24. MS (electrospray): exact mass calculated for C18H23ClN2O2, 334.14; m/z found, 335.1 [M++H]. 1H NMR (CDCl3, 400 MHz) 8.46 (br s, 1H), 7.42 (d, J=8.61 Hz, 1H), 7.14 (d, J=1.57 Hz,1H), 6.96 (dd, J=6.65 Hz, 1.76 Hz, 1H), 6.74 (s, 1H), 4.14 (br s, 2H), 2.89-2.70 (m, 3H), 1.90 (d, J=12.13, 2H), 1.65-1.50 (m, 2H), 1.41 (s, 9H).

reactant | 6-chloro-3-piperidin-4-yl-1H-indole | 19.5 mmol, 4.6 g | ClC1=CC=C2C(=CNC2=C1)C1CCNCC1 | C13H15ClN2
reactant | di-tert-butyl dicarbonate | 21.4 mmol, 4.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | 4-(6-Chloro-1H-indol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 4.2 g, 64% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=CC(=CC=C12)Cl | C18H23ClN2O2
